US09079866B2
Step B: tert-Butyl 3-(3-bromopyridin-2-ylthio)pyrrolidine-1-carboxylate
A mixture of 3-bromopyridine-2-thiol (0.30 g, 1.6 mmol), tert-butyl 3-bromopyrrolidine-1-carboxylate (0.79 g, 3.2 mmol) and K2CO3 (438 mg, 3.20 mmol) in DMF (12 mL) was stirred at rt for 4 h. The reaction mixture was concentrated to dryness and the residue subjected to FCC purification to give partially purified title compound (1.05 g, 63% purity).

reactant | 3-bromopyridine-2-thiol | 1.6 mmol, 0.30 g | BrC=1C(=NC=CC1)S | C5H4BrNS
reactant | tert-butyl 3-bromopyrrolidine-1-carboxylate | 3.2 mmol, 0.79 g | BrC1CN(CC1)C(=O)OC(C)(C)C | C9H16BrNO2
reactant | K2CO3 | 3.20 mmol, 438 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(3-bromopyridin-2-ylthio)pyrrolidine-1-carboxylate | BrC=1C(=NC=CC1)SC1CN(CC1)C(=O)OC(C)(C)C | C14H19BrN2O2S
